US05180829
N-(2,6-Diphenyl-3,5-dimethylpiperidin-4-yl)lauramide
To a stirred 0° C. solution of 12.7 g (45.3 mmol) of 2,6-diphenyl-3,5-dimethyl-4-aminopiperidine and 5.1 g (50 mmol) of triethylamine in 150 ml of methylene chloride is added dropwise a solution of 9.9 g (45.3 mmol) of lauroyl chloride. After stirring for 30 minutes at 0° C., the reaction mixture is washed with water (2×200 ml) followed by a saturated aqueous sodium bicarbonate solution (300 ml). The organic phase is separated, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting solid is recrystallized from ethanol to give 15.4 g (73% yield) of the title compound as a white solid melting at 112°-114° C.

reactant | 2,6-diphenyl-3,5-dimethyl-4-aminopiperidine | 45.3 mmol, 12.7 g | C1(=CC=CC=C1)C1NC(C(C(C1C)N)C)C1=CC=CC=C1 | C19H24N2
reactant | triethylamine | 50 mmol, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | lauroyl chloride | 45.3 mmol, 9.9 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2,6-Diphenyl-3,5-dimethylpiperidin-4-yl)lauramide | 15.4 g, 73% yield | C1(=CC=CC=C1)C1NC(C(C(C1C)NC(CCCCCCCCCCC)=O)C)C1=CC=CC=C1 | C31H46N2O
